US03987047
5-Morpholino-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester dihydrochloride was prepared from 5-chloro-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester and morpholine analogous to Example 173, but at atmospheric pressure.

reactant | 5-chloro-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | C(C)OC(=O)N1CC(C2=NC=3C=CC=CC3C(=C2CC1)C)Cl | C17H19ClN2O2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 5-Morpholino-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester dihydrochloride | Yield: 51% | Cl.Cl.C(C)OC(=O)N1CC(C2=NC=3C=CC=CC3C(=C2CC1)C)N1CCOCC1 | InChI=1S/C21H27N3O3.2ClH/c1-3-27-21(25)24-9-8-17-15(2)16-6-4-5-7-18(16)22-20(17)19(14-24)23-10-12-26-13-11-23;;/h4-7,19H,3,8-14H2,1-2H3;2*1H
